US08686022B2
Tert-butyl 4-methylene-azepan-1-carboxylate
Under argon 12.56 g methyltriphenylphosphonium bromide are dissolved in 100 ml of tetrahydrofuran, cooled to −14° C. and within 45 minutes a 2 M solution of 17.58 ml n-butyllithium in hexane is added dropwise. The mixture is stirred for another 1 hour and then a solution of 5 g tert-butyl 4-oxo-azepan-1-carboxylate in 20 ml of tetrahydrofuran is added dropwise. Then the mixture is heated to ambient temperature and stirred for 12 hours. It is then divided between water and hexane and the aqueous phase is extracted twice with hexane. The combined organic phases are washed with saturated aqueous sodium chloride solution and dried on magnesium sulphate. The solvents are eliminated in vacuo and the residue is stirred with petroleum ether/tert.-butyl-methyl-ether. The solid is suction filtered and the mother liquor is evaporated down in vacuo. The residue is chromatographed on silica gel (petroleum ether/ethyl acetate 100:0, then 95:5).

reactant | n-butyllithium | 17.58 ml | C(CCC)[Li]
reactant | tert-butyl 4-oxo-azepan-1-carboxylate | 5 g | O=C1CCN(CCC1)C(=O)OC(C)(C)C | C11H19NO3
reactant | water | O | H2O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | Tert-butyl 4-methylene-azepan-1-carboxylate | C=C1CCN(CCC1)C(=O)OC(C)(C)C | C12H21NO2
